US05834494
6-Chloro-5-ethylthio-1-(3-pyridylcarbamoyl)indoline (E38)
6-Chloro-5-ethylthioindoline (D64) (0.18 g, 0.85 mmol) was treated with 3-pyridylisocyanate as in the procedure described in Example 1. The crude product was recrystallised from ethanol/diethyl ether to give the title compound (0.14 g, 48%) as a white crystalline solid m.p.=225°-226° C.

reactant | 6-Chloro-5-ethylthioindoline | 0.85 mmol, 0.18 g | ClC1=C(C=C2CCNC2=C1)SCC | C10H12ClNS
reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
product | 6-Chloro-5-ethylthio-1-(3-pyridylcarbamoyl)indoline | 0.14 g, 48% | ClC1=C(C=C2CCN(C2=C1)C(NC=1C=NC=CC1)=O)SCC | C16H16ClN3OS
